US07598243B2
To a mixture of 4-acetylpyridine (75 mL, 0.68 mol) and ethyl formate (109 mL) in anhydrous benzene (1 L) was added sodium methoxide (73 g) and the resulting mixture was refluxed for 18 h. The mixture was cooled and benzene decanted from a sticky solid, which had formed during the reaction. The crude product was dissolved in water (700 mL) and hydrazine dihydrochloride was added and the resulting mixture was stirred at room temperature for 2 h. The mixture was redissolved by addition of 5 N NaOH. Precipitate formed which was removed by filtration and dried to give 4-(1H-pyrazol-3-yl)pyridine (35 g).

reactant | 4-acetylpyridine | 0.68 mol, 75 mL | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | ethyl formate | 109 mL | C(=O)OCC | C3H6O2
reactant | sodium methoxide | 73 g | C[O-].[Na+]
reactant | hydrazine dihydrochloride | Cl.Cl.NN
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | benzene | 1 L | C1=CC=CC=C1 | C6H6
solvent | water | 700 mL | O | H2O
product | 4-(1H-pyrazol-3-yl)pyridine | 35 g | N1N=C(C=C1)C1=CC=NC=C1 | C8H7N3
